US07592358B2
7.1e. 2-{4-[5-(4-chlorophenyl)-3-fluoropyridin-2-ylethynyl]phenoxy}ethanol
Under an argon atmosphere 14.8 mg (0.078 mmol) of CuI was added to a solution of 0.82 g (3.11 mmol) of 2-(4-iodo-2-methylphenoxy)ethanol, 0.72 g (2.11 mmol) of 5-(4-chlorophenyl)-2-ethynyl-3-fluoropyridine, 57 mg (0.078 mmol) of [1,1′-bis(diphenylphosphine)ferrocene]palladium (II) chloride, and 0.86 mL (6.22 mmol) of triethylamine in 20 mL of THF and the mixture was stirred for 16 hours at RT. The reaction mixture was combined with EtOAc, and the precipitate was filtered off and washed with EtOAc. The filtrate and the organic washing solutions were washed with 5% aqueous ammonia and water, dried over magnesium sulfate and evaporated down in vacuo. The crude product was purified by column chromatography (silica gel, PE/EtOAc 1:1). Yield: 0.20 g (18% of theoretical); C21H15ClFNO2 (M=367.800); calc.: molpeak (M+H)+: 368/370 (Cl); found: molpeak (M+H)+: 368/370 (Cl); HPLC-MS: 5.94 minutes (method B).

reactant | 2-(4-iodo-2-methylphenoxy)ethanol | 3.11 mmol, 0.82 g | IC1=CC(=C(OCCO)C=C1)C | C9H11IO2
reactant | 5-(4-chlorophenyl)-2-ethynyl-3-fluoropyridine | 2.11 mmol, 0.72 g | ClC1=CC=C(C=C1)C=1C=C(C(=NC1)C#C)F | C13H7ClFN
reactant | triethylamine | 6.22 mmol, 0.86 mL | C(C)N(CC)CC | C6H15N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | CuI | 0.078 mmol, 14.8 mg | [Cu]I
product | 2-{4-[5-(4-chlorophenyl)-3-fluoropyridin-2-ylethynyl]phenoxy}ethanol | ClC1=CC=C(C=C1)C=1C=C(C(=NC1)C#CC1=CC=C(OCCO)C=C1)F | C21H15ClFNO2
